US04863904
To a solution of 1.50 g of 2-(1-naphthylmethyl)malonic acid diethyl ester in 20 ml of 1,2-dimethoxyethane was added 0.3 g of a 50% sodium hydride (suspension in oil) under cooling, and then the mixture was stirred for 1 hour. To the mixture was added 1.18 g of cinnamyl bromide, and the mixture was heated under reflux for 5 hours. After cooling, water was added to the reaction mixture, and the mixture was extracted with diethyl ether. The ethereal layer was washed with a saturated sodium chloride aqueous solution, and dried over anhydrous magnesium sulfate. The ethereal layer was concentrated under reduced pressure, and the residue was purified by silica gel flash column chromatography (eluent: benzene/hexane=1/1 by volume) to obtain 1.6 g of 2-cinnamyl-2-(1-naphthylmethyl)malonic acid diethyl ester as a colorless oil.

reactant | 2-(1-naphthylmethyl)malonic acid diethyl ester | 1.50 g | C(C)OC(C(C(=O)OCC)CC1=CC=CC2=CC=CC=C12)=O | C18H20O4
reactant | sodium hydride | [H-].[Na+]
reactant | cinnamyl bromide | 1.18 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
reactant | water | O | H2O
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
product | 2-cinnamyl-2-(1-naphthylmethyl)malonic acid diethyl ester | 1.6 g | C(C)OC(C(C(=O)OCC)(CC1=CC=CC2=CC=CC=C12)CC=CC1=CC=CC=C1)=O | C27H28O4
